US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(morpholin-4-ylcarbonyloxy)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 18-1)
A mixture of 8-(5-fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 11, 153 mg, 0.340 mmol), 1,1′-carbonyldiimiazole (95.6 mg, 0.590 mmol), and 4-dimethylaminopyridine (5.2 mg, 0.043 mmol) was dissolved in anhydrous tetrahydrofuran (3 mL) and stirred for 1 hour at room temperature. After morpholine (58.3 μL, 0.666 mmol) was added to the reaction mixture and the mixture was stirred for 2 hour, the mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (61.2 mg) as a colorless solid. (Yield 32%)

reactant | 8-(5-fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)O)OC)C1)C | C26H27FN2O4
reactant | morpholine | 0.666 mmol, 58.3 μL | N1CCOCC1 | C4H9NO
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.043 mmol, 5.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(morpholin-4-ylcarbonyloxy)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 61.2 mg, Yield 32% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)OC(=O)N2CCOCC2)OC)C1)C | C31H34FN3O6
